US05164401
3-butyl-7-(2,5-dimethylbenzyl)-9, 9-dimethyl-3,7-diazabicyclo[3,3,1]nonane=test substance No. 19.
3.5 g 3-n-butyl-9,9-dimethyl-3, 7-diazabicyclo[3,3,1]nonane were dissolved in 25 ml of dimethyl formamide, and 0.8 g of lithium amide was added to the solution. The reaction mixture was then maintained at a temperature of 60° C. for 1 hour and subsequently allowed to cool. After cooling, a solution of 5.6 g of 2,5-dimethylbenzyl chloride in 10 ml of dimethyl formamide was added dropwise, and the reaction mixture was stirred for a further 4 hours at 80° C. Then aqueous citric acid solution was added to the reaction mixture in order to dissolve the title compound as a citric acid salt. The solution was washed with diethyl ether and then rendered alkaline by adding dilute sodium hydroxide solution, whereupon the title compound was again freed as a base. The free base was extracted with diethyl ether. After the ether extract was dried over magnesium sulfate, the ether solution was filtered, and the ether was distilled off. The remaining oil was purified by distillation in a bulb tube at 210° C. and 0.01 Torr.

reactant | 3-n-butyl-9,9-dimethyl-3, 7-diazabicyclo[3,3,1]nonane | 3.5 g | C(CCC)N1CC2CNCC(C1)C2(C)C | C13H26N2
reactant | lithium amide | 0.8 g | [NH2-].[Li+]
reactant | 2,5-dimethylbenzyl chloride | 5.6 g | CC1=C(CCl)C=C(C=C1)C | C9H11Cl
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethyl formamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-butyl-7-(2,5-dimethylbenzyl)-9, 9-dimethyl-3,7-diazabicyclo[3,3,1]nonane | C(CCC)N1CC2CN(CC(C1)C2(C)C)CC2=C(C=CC(=C2)C)C | C22H36N2
